US04988694
2-Chloro-1-(3-amino-4-bromo-2-chloro-6-pyridyl)-ethanol
1 g (4.52 mmol) of 3-amino-4-bromo-2-chloro-6-chloroacetylpyridine are suspended in 15 ml of methanol, the suspension is cooled to 0° C. and 133 mg (3.52 mmol) of NaBH4 are added. After 10 minutes, the mixture is poured onto water, excess NaBH4 is destroyed by acidification with HCl and the mixture is neutralized again with NaHCO3. After extraction with CH2Cl2 and evaporation of the solvent, 1 g (99% of theory) is obtained as the residue.

reactant | 3-amino-4-bromo-2-chloro-6-chloroacetylpyridine | 4.52 mmol, 1 g | NC=1C(=NC(=CC1Br)C(CCl)=O)Cl | C7H5BrCl2N2O
reactant | NaBH4 | 3.52 mmol, 133 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-Chloro-1-(3-amino-4-bromo-2-chloro-6-pyridyl)-ethanol | ClCC(O)C1=CC(=C(C(=N1)Cl)N)Br | C7H7BrCl2N2O
